US09035062B2
(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide (F1-4), Synthesis from (F1-3d)
60 mg of (2S,5R)-2,5-dioxopyrrolidin-1-yl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate was dissolved in dehydrated dichloromethane (0.8 mL), followed by cooling to 0° C. 0.12 mL of concentrated aqueous ammonia was added to the reaction solution, followed by stirring at room temperature for 1 hour. Subsequently, water (10 mL) was added and the organic layer was fractionated, followed by sequential washing with water and saturated brine and drying over anhydrous magnesium sulfate. The residue resulting from concentration of the solvent under reduced pressure was applied to silica gel column chromatography (hexane/ethyl acetate=1/3), and subsequently crystallized with chloroform/hexane=1:3 to afford 30.4 mg of the title compound as a colorless crystalline powder.

reactant | (2S,5R)-2,5-dioxopyrrolidin-1-yl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 60 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)ON2C(CCC2=O)=O | C18H19N3O6
reactant | ammonia | 0.12 mL | N | H3N
reactant | water | 10 mL | O | H2O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 0.8 mL | ClCCl | CH2Cl2
product | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | 30.4 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)N | C14H17N3O3
